US05232924
Synthesis of 3-[2-[4-(4-Fluorobenzoyl)piperidin-1-yl]ethyl]-7,8-dihydro-2H,6H-pyrrolo[1,2-a]-1,3,5-triazine-2,4(3H)-dione
In the manner described in Example 1-2), 7,8-dihydro-2H,6H-pyrrolo[1,2-a]-1,3,5-triazine-2,4(3H)-dione prepared in 1) above and 4-(4-fluorobenzoyl)-1-(2-hydroxyethyl)piperidine were condensed in N,N-dimethylformamide in the presence of triphenylphosphine and diethyl azodicarboxylate to obtain the entitled compound as a caramel-like substance.

reactant | 7,8-dihydro-2H,6H-pyrrolo[1,2-a]-1,3,5-triazine-2,4(3H)-dione | N1=C2N(C(NC1=O)=O)CCC2 | C6H7N3O2
reactant | 4-(4-fluorobenzoyl)-1-(2-hydroxyethyl)piperidine | FC1=CC=C(C(=O)C2CCN(CC2)CCO)C=C1 | C14H18FNO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[2-[4-(4-Fluorobenzoyl)piperidin-1-yl]ethyl]-7,8-dihydro-2H,6H-pyrrolo[1,2-a]-1,3,5-triazine-2,4(3H)-dione | FC1=CC=C(C(=O)C2CCN(CC2)CCN2C(N=C3N(C2=O)CCC3)=O)C=C1 | C20H23FN4O3
